US06228972B1
In a flask were charged 1-fluoro-2,4-dinitrobenzene (40.94 g, 0.22 mol), triethylamine (24.29 g, 0.24 mol), 3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecyl alcohol (102.1 g, 0.22 mol), 220 g of N,N-dimethylacetamide and stirred at room temperature for 22 hours under a nitrogen atmosphere. The resultant etherified product was introduced into water with stirring. The solids precipitated were collected and dried at 40° C. under reduced pressure to obtain 97.22 g (yield: 72%) of 4-(3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecyloxy)-1,3-dinitrobenzene as yellow crystals.

reactant | 1-fluoro-2,4-dinitrobenzene | 0.22 mol, 40.94 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | triethylamine | 0.24 mol, 24.29 g | C(C)N(CC)CC | C6H15N
reactant | 3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecyl alcohol | 0.22 mol, 102.1 g | FC(CCO)(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C10H5F17O
reactant | N,N-dimethylacetamide | 220 g | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-(3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecyloxy)-1,3-dinitrobenzene | 97.22 g, yield: 72% | FC(CCOC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C16H7F17N2O5
